US05889025
4-[1-(Benzylaminocarbonyl)piperidin-4-yloxy)benzaldehyde
The title compound (0.2 g, 80%) was prepared as a white solid from 4-(piperidin-4-yloxy)benzaldehyde (0.25 g) and benzyl isocyanate (0.084 ml), in a similar manner to that described in preparation 14.

reactant | 4-(piperidin-4-yloxy)benzaldehyde | 0.25 g | N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C12H15NO2
reactant | benzyl isocyanate | 0.084 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | 4-[1-(Benzylaminocarbonyl)piperidin-4-yloxy)benzaldehyde | 0.2 g, 80% | C(C1=CC=CC=C1)NC(=O)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C20H22N2O3
